US08669234B2
To the solution of 2-[5-(4-bromo-3-methoxycarbonyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (200 mg, 0.44 mmol) and bis(pinacolato)diboron (225 mg, 0.89 mmol) in 1,4-dioxane (3.4 ml) and DMF (2 ml) was added potassium acetate (110 g, 1.1 mmol), followed by Pd(PPh3)4 (20 mg) and PdCl2(dppf)CH2Cl2 (20 mg). The mixture was heated at 80° C. for 12 hours. The mixture was diluted with EtOAc, and was washed with water and brine, and was dried with sodium sulfate. Concentration and purification by flash column chromatography (EtOAc) gave 2-{5-[3-Methoxycarbonyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester (168 mg). m/z: 498.0 (M+H)+.

reactant | 2-[5-(4-bromo-3-methoxycarbonyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.44 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC(=C(C=C1)Br)C(=O)OC | C20H24BrN3O4
reactant | bis(pinacolato)diboron | 0.89 mmol, 225 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.1 mmol, 110 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 3.4 ml | O1CCOCC1 | C4H8O2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-{5-[3-Methoxycarbonyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carboxylic acid tert-butyl ester | 168 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC(=C(C=C1)B1OC(C(O1)(C)C)(C)C)C(=O)OC | C26H36BN3O6
